US04960775
A stirred suspension of lithium aluminium hydride (1.0 g) in diethyl ether (40 ml) at 0° C. under an atmosphere of argon was treated with a solution of ethyl 3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine-2-carboxylate (2.35 g) in diethyl ether (60 ml). The reaction mixture was stirred at 0° C. for 2 hours and then it was quenched by dropwise treatment with ethyl acetate (50 ml). After stirring for a further period of 1 hour it was treated with saturated aqueous sodium sulphate solution (100 ml) and the resulting mixture was then extracted with ethyl acetate (3×100 ml). The combined extract was dried over magnesium sulphate and evaporated and the resulting residue was subjected to flash chromatography on silica gel, using as eluant a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether (3:1 v/v), to give 2-hydroxymethyl-3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine (1.22 g) in the form of a yellow gummy solid. [NMR (in a mixture of CDCl3 and D2O): 1.57 (6H, d, J=7 Hz), 3.86 (1H, septet, J=7 Hz), 4.62 (2H, s), 7.25-7.53 (8H, m), 7.58-7.64 (1H, m), 8.3 (1H, s); Mass spectrum (electron impact) m/z=316].

reactant | lithium aluminium hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine-2-carboxylate | 2.35 g | C(C)(C)C1=C(C(=C2N1N=CC1=CC=CC=C21)C2=CC=CC=C2)C(=O)OCC | C23H22N2O2
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 2-hydroxymethyl-3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine | 1.22 g | OCC=1C(=C2N(N=CC3=CC=CC=C23)C1C(C)C)C1=CC=CC=C1 | C21H20N2O
